US04906402
(b) (S)-2-Methylbutyl 2-(4-hydroxyphenyl)propanoate (MBHP)
A mixture of MHPP (2.0 g, 12 mmole) and tetra-(n-butyl)titanate (2 drops) in (S)-2-methylbutanol (5 ml) was stirred at reflux for 16 hours after which excess alcohol was allowed to distill, out and the residual product recovered by distillation (yield 90%; bp 155°-60° C.; SOR: +5.4°,c=3). The results of IR, 1H-NMR and mass spectroscopy and elemental analysis were consistent with the assigned structure.

reactant | Methyl 2-(4'-hydroxyphenyl)propanoate | 12 mmole, 2.0 g | OC1=CC=C(C=C1)C(C(=O)OC)C | C10H12O3
solvent | (S)-2-methylbutanol | 5 ml | C[C@H](CO)CC | C5H12O
product | (S)-2-Methylbutyl 2-(4-hydroxyphenyl)propanoate | yield 90% | OC1=CC=C(C=C1)C(C(=O)OC[C@H](CC)C)C | C14H20O3
